* Z:\home\groben\Documents\Repos\Beer Cooling System\PeltierSwitchingMainBoard\Simulations\NE555_PWM.asc
XU1 0 N003 NE-Out Vcc N007 N003 N004 Vcc NE555
V1 Vcc 0 12
C1 N007 0 10n
C2 N003 0 10p
R1 N005 N003 80k
R2 N003 N006 20k
D1 NE-Out N005 1N4148
D2 N006 NE-Out 1N4148
R3 N004 0 1k
J1 Fet-out P001 N002 2N5432
R4 Vcc Fet-out 470
R5 N002 0 220
C4 N002 0 10n
R10 Vcc npn-out 5k
C3 N009 P002 10n
R9 Vcc N009 20k
C5 P001 N001 10n
R7 npn-amp 0 220
Q1 npn-out N009 npn-amp 0 BC817-40
R11 Vcc NC_01 10k
R13 NC_02 0 10k
Q2 Vcc N008 N010 0 2N2222
R12 N010 0 100
C6 npn-amp 0 10n
R6 P002 NE-Out 200
R8 N009 0 2k
.model D D
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\groben\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 200u 150u 1u
.lib NE555.sub
.backanno
.end
